US05359055
The procedure of Example 17 was repeated except that 43.5 mg (0.0798 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate was used in lieu of 43.6 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate to give 16.6 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α, 2α-epoxypregna-5,7-dien-3β-yl acetate. In addition, 15.2 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate was recovered. The yield of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate was 68% based on consumed 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate. The 1H-NMR spectrum of the product 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate was in agreement with that of the 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate obtained in Example 17.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate | 0.0798 mmole, 43.5 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(NC)=O | C31H47NO7
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate | 43.6 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C31H46O8
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α, 2α-epoxypregna-5,7-dien-3β-yl acetate | 16.6 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C29H42O5
